US04178448
Berichte, 62, 1393-1394 (1929) discloses the reaction of the ethoxycarbonylcyanamide with dimethylsulfate to produce N-ethoxycarbonyl-N-methylcyanamide.

reactant | ethoxycarbonylcyanamide | C(C)OC(=O)NC#N | C4H6N2O2
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
product | N-ethoxycarbonyl-N-methylcyanamide | C(C)OC(=O)N(C#N)C | C5H8N2O2
